US07365085B2
a) [4-(6-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid methyl ester
To a stirring solution of (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-piperazin-1-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride (0.1 g, 0.16 mmol) in EtOH (6 ml) was added methyl bromo-acetate (16 uL, 0.17 mmol) and diisopropylethylamine (89 uL, 0.51 mmol). The reaction mixture was stirred for 10 h at RT and then concentrated. Purification by flash silica gel chromatograpy afforded the title compound as a clear oil, 47 mg (42%). MS (ESI) 681.2 (M+).

reactant | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-piperazin-1-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride | 0.16 mmol, 0.1 g | Cl.ClC1=C(CN(CCCOC2=NC(=CC=C2)N2CCNCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F
reactant | methyl bromo-acetate | 0.17 mmol, 16 uL | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 0.51 mmol, 89 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 6 ml | CCO | C2H6O
product | [4-(6-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazin-1-yl]-acetic acid methyl ester | COC(CN1CCN(CC1)C1=NC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C37H40ClF3N4O3
